US05260051
Preparation of Octyl Lactate by Transesterification
A 500 mL one neck round bottom flask equipped with a distillation apparatus and nitrogen inlet/outlet was charged with 100.0 g (0.847 moles) of ethyl lactate, 220.49 g (1.69 moles) of octyl alcohol and 0.423 g of sulfuric acid (based on 0.5 g sulfuric acid/one mole ethyl lactate). The reaction was refluxed for 8 hours and ethanol was collected as formed. The acid was neutralized by washing three times with 100 mL saturated sodium bicarbonate solution. Approximately 50 mL ether was needed to break the emulsion. The organic layer was collected and dried over magnesium sulfate. Excess octyl alcohol was removed by high vacuum distillation, and three fractional distillations led to 75.0 g (44% yield) of clear colorless oil. According to GC, the product is 95% pure.

reactant | ethyl lactate | 0.847 moles, 100.0 g | C(C(O)C)(=O)OCC | C5H10O3
reactant | octyl alcohol | 1.69 moles, 220.49 g | C(CCCCCCC)O | C8H18O
reactant | sulfuric acid | one mole, 0.423 g | S(O)(O)(=O)=O | H2O4S
product | Octyl Lactate | 75.0 g, 44% yield | C(C(O)C)(=O)OCCCCCCCC | C11H22O3
